### PR TITLE
[Merged by Bors] - feat(Data/Nat/Bitwise): formula for the xor of {0,...,n}

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -345,6 +345,51 @@ theorem even_xor {m n : ℕ} : Even (m ^^^ n) ↔ (Even m ↔ Even n) := by
...
 
+@[simp]
+theorem xor_one_of_even {n : ℕ} (h : Even n) : n ^^^ 1 = n + 1 := by
+  cases n with
+  | zero => rfl
+  | succ n =>
+    simp [HXor.hXor, instXorOp, xor, bitwise, even_iff.mp h, ← mul_two, div_two_mul_two_of_even h]
+
+@[simp]
+theorem xor_one_of_odd {n : ℕ} (h : ¬Even n) : n ^^^ 1 = n - 1 := by
```
Comment (plp127) [inline Mathlib/Data/Nat/Bitwise.lean]: This should be `xor_one_of_not_even` or it should use `Odd n` in the statement instead of `¬Even n`.

Comment (SnirBroshi) [reply Mathlib/Data/Nat/Bitwise.lean]: `Odd` isn't available without adding imports, so renamed

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -345,6 +345,45 @@ theorem even_xor {m n : ℕ} : Even (m ^^^ n) ↔ (Even m ↔ Even n) := by
...
 
+@[simp]
+theorem xor_one_of_even {n : ℕ} (h : Even n) : n ^^^ 1 = n + 1 := by
+  cases n with
+  | zero => rfl
+  | succ n =>
+    simp [HXor.hXor, instXorOp, xor, bitwise, even_iff.mp h, ← mul_two, div_two_mul_two_of_even h]
+
+@[simp]
+theorem xor_one_of_not_even {n : ℕ} (h : ¬Even n) : n ^^^ 1 = n - 1 := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Bitwise.lean]: Is there a reason you don't want to use `Odd`?

Comment (SnirBroshi) [reply Mathlib/Data/Nat/Bitwise.lean]: I do want to, but it requires adding an import.

This used to use `Odd` and the main statement used to use `Finset` (7f55cd7f635967b2def1206eac713b2e95b443f8), but then I changed it (eaac3b118145beeb363e19e8c831602039abda7c) to `¬Even` and `List` to avoid import changes.

Are you okay with such an import change?

Comment (jcommelin) [reply Mathlib/Data/Nat/Bitwise.lean]: Import `Odd` seems fine, but using `List` indeed seems more appropriate than `Finset`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
